US05514680
This compound was prepared using an adaptation of the method of Loev, et al., supra. A mixture of ethyl-N-(4,5-dichloro-2-nitro-phenyl)oxamate (0.307 g, 1 mmol) and 0.04 g of 5% Pd-C in 5 mL of DMF was hydrogenated at 45 psi for 1.5 h. The reaction mixture was filtered and the liquid was added to water (18 mL). A white precipitation formed. The mixture was vacuum filtered. The solid was rinsed with water (5×2 mL), and air dried for 1 h to yield 215.14 mg (0.87 mmol)of 6,7-dichloro-N-hydroxy-1,4-dihydroquinoxaline-2,3-dione as a pale yellow solid (87%). The pale yellow solid (215 mg, 0.87 mmol) was dissolved in 4 mL of DMSO with heating. Water (0.8 mL) was added until precipitation appeared. The mixture was heated again to redissolve the precipitate. The yellow solution was cooled down. Pale yellow crystals came out which were collected by vacuum filtration and rinsed with water (5×2 mL) and dried in vacuum to yield 173 mg (0.70 mmol) of 6,7-dichloro-N-hydroxy-1,4-dihydroquinoxaline-2,3-dione as pale yellow crystals. Mp >300° C. (dec). 1H NMR (300 MHz, DMSO-d6) δ12.244 (br s, 1H, NH), 11.953 (br s, 1H, N-OH), 7.562 (s, 1H, H-8), 7.318 (s, 1H, H-5). HRMS calcd. for C8H4Cl2N2O3, 245.9599; found, 245.9600.

reactant | ethyl-N-(4,5-dichloro-2-nitro-phenyl)oxamate | 1 mmol, 0.307 g | C(C)OC(C(=O)NC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-])=O | C10H8Cl2N2O5
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd-C | 0.04 g | [Pd] | Pd
product | 6,7-dichloro-N-hydroxy-1,4-dihydroquinoxaline-2,3-dione | 0.87 mmol, 215.14 mg, 87% | ClC=1C=C2NC(C(N(C2=CC1Cl)O)=O)=O | C8H4Cl2N2O3
